US06166219
One milliliter of 35% hydrochloric acid was added to a solution of 850 mg of 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenzamide in 10 ml of 1,4-dioxane, and the mixture was heat-refluxed for 4 days. After the solvent was distilled off from the reaction solution under reduced pressure, the residue was separated by being poured in a mixture solution of water and chloroform. The organic layer was washed with water, and was dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified through column chromatography [50 ml, chloroform] to give 230 mg of 3-[N-(2-chlorobenzyl)amino]-4-nitrobenznitrile.

reactant | hydrochloric acid | One milliliter | Cl | ClH
reactant | 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenzamide | 850 mg | ClC1=C(CCC(=O)NC=2C=C(C(=O)N)C=CC2[N+](=O)[O-])C=CC=C1 | C16H14ClN3O4
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[N-(2-chlorobenzyl)amino]-4-nitrobenznitrile | 230 mg | ClC1=C(CNC=2C=C(C#N)C=CC2[N+](=O)[O-])C=CC=C1 | C14H10ClN3O2
